US08754103B2
To a solution of 2-chloro-5-(4-phenoxyphenyl)pyrazine in 2 mL of ethanol was added hydrazine monohydrate (2 mL). The reaction mixture was heated at 110 C for 2 hours and evaporated in vacuo. The residue was dissolved in dicholomethane, washed with water, dried over Na2SO4, and evaporated in vacuo to afford 2-hydrazinyl-5-(4-phenoxyphenyl)pyrazine.

reactant | 2-chloro-5-(4-phenoxyphenyl)pyrazine | ClC1=NC=C(N=C1)C1=CC=C(C=C1)OC1=CC=CC=C1 | C16H11ClN2O
reactant | hydrazine monohydrate | 2 mL | O.NN
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 2-hydrazinyl-5-(4-phenoxyphenyl)pyrazine | N(N)C1=NC=C(N=C1)C1=CC=C(C=C1)OC1=CC=CC=C1 | C16H14N4O
